US06730792B2
To 2-(3-formyl-1-pyrrolyl)phenol (2.9 g, 15.5 mmol) in 50 ml dry tetrahydrofuran are added sodium cyanoborohydride (1.94 g, 31 mmol) and boron trifluoride diethyletherate (5.7 ml, 47 mmol). The resulting solution is stirred for 3 hours at ambient temperature. Saturated sodium bicarbonate (100 ml) is added and the resulting mixture is stirred for 1 hour before extraction with t-butylmethylether. The organic layer is dried and concentrated and the residue is purified by chromatography (toluene/ethanol 9:1) to yield 2-(3-methyl-1-pyrrolyl)phenol (300 mg, 11%). This phenolic product is reacted with (2S)-glycidyl 3-nitrobenzenesulfonate substantially as described for Epoxide 1 to yield the title epoxide.

reactant | 2-(3-formyl-1-pyrrolyl)phenol | 15.5 mmol, 2.9 g | C(=O)C1=CN(C=C1)C1=C(C=CC=C1)O | C11H9NO2
reactant | sodium cyanoborohydride | 31 mmol, 1.94 g | C(#N)[BH3-].[Na+]
reactant | boron trifluoride | B(F)(F)F | BF3
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | t-butylmethylether | C(C)(C)(C)OC | C5H12O
product | 2-(3-methyl-1-pyrrolyl)phenol | 300 mg, 11% | CC1=CN(C=C1)C1=C(C=CC=C1)O | C11H11NO
